US06242470B1
N-(3,5-Dimethoxyphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 39 from 1-adamantaneacetic acid (3.0 g) and 3,5-dimethoxyaniline (3.0 g) to give the title compound as a white solid (4.2 g).

reactant | 1-adamantaneacetic acid | 3.0 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | 3,5-dimethoxyaniline | 3.0 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | N-(3,5-Dimethoxyphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 4.2 g | COC=1C=C(C=C(C1)OC)NC(CC12CC3CC(CC(C1)C3)C2)=O | C20H27NO3
